* U:\designs\pzpre\electronics\sim\pz_pre_full_sig_path.asc
XU1 N009 N003 N006 0 N003 LTC6241
V1 N001 0 9
V2 Vin 0 SINE(0 1 1000) AC 1
R1 N008 Vin 1000K
C1 N009 N008 1n
R3 N009 N012 10000K
R4 N004 N003 22k
R5 N007 N004 50k
R6 N005 N007 50k
R7 N013 N003 10k
R8 N014 N013 50k
R9 N015 N014 50k
R10 N011 N007 22k
C2 N011 N014 560p
C3 N005 N004 47n
XU2 N012 N011 N010 0 Vout LTC6241
R11 Vout N005 22k
R12 Vout N015 10k
XU3 N016 N012 N002 0 N012 LTC6241
R13 N002 N016 100K
R14 N016 0 100K
R2 N002 N001 0.1
R15 N002 N006 0.1
R16 N002 N010 0.1
.tran 0.1
;ac oct 100 1 100000
.lib LTC4.lib
.backanno
.end
